US04536508
4-[3-(1-piperidinylmethyl)phenoxy]butanal semicarbazone
A solution of 4-[3-(1-piperidinylmethyl)phenoxy]butannitrile (51.6 g) sodium acetate (73.8 g) and semicarbazide hydrochloride (77.6 g) in 50% aqueous ethanol (1 L) was hydrogenated over Raney Nickel (50 g). The catalyst was removed by filtration. The filtrate was partially evaporated, made basic with potassium carbonate and extracted with ethyl acetate. The organic extract was evaporated to leave an oil which was purified by column chromatography to give the title compound as a pale yellow oil (48.6 g); tlc System B, Rf 0.8.

reactant | 4-[3-(1-piperidinylmethyl)phenoxy]butannitrile | 51.6 g | N1(CCCCC1)CC=1C=C(OCCCC#N)C=CC1 | C16H22N2O
reactant | semicarbazide hydrochloride | 77.6 g | Cl.NNC(=O)N
solvent | ethanol | 1 L | C(C)O | C2H6O
catalyst | Raney Nickel | 50 g | [Ni] | Ni
product | 4-[3-(1-piperidinylmethyl)phenoxy]butanal semicarbazone | 48.6 g | N1(CCCCC1)CC=1C=C(OCCCC=NNC(=O)N)C=CC1 | C17H26N4O2
